US05521170
To a solution of 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (0.87 g) and triethylamine (0.55 g) in dichloromethane (5 ml) was added a solution of 4-nitrobenzoyl chloride (1.00 g) in dichloromethane (5 ml) at ambient temperature. After being stirred at ambient temperature for 2 hours, the solution was washed successively with 0.5N hydrochloric acid, saturated sodium bicarbonate aqueous solution, and brine. The organic layer was dried over magnesium sulfate, filtered and the solvents was evaporated. Trituration with a mixture of diethyl ether and diisopropyl ether (1:1) of a crude product afforded 5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.60 g) as a slightly brown powder.

reactant | 1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 0.87 g | N1C(CCNC2=C1C=CC=C2)=O | C9H10N2O
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 1.00 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 1.60 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC(NC3=C2C=CC=C3)=O)C=C1 | C16H13N3O4
